US05817678
Step A: Preparation of cis-3-methoxycarbonyl-5-[N-(1-(4-cyanobenzyl)-1H-imidazol-5-yl)acetylamino]piperidine
1-(t-Butoxycarbonyl)-3-methoxycarbonyl-5-[N-(1-(4-cyanobenzyl)-1H-imidazol-5-yl)acetylamino]piperidine (44.6 mg, 0.093 mmol) was dissolved in CH2Cl2 (6 mL). Trifluoroacetic acid (3 mL) was added and the solution was stirred at ambient temperature for 4 h. The solution was concentrated under reduced pressure to give the title compound without further purification.

reactant | 1-(t-Butoxycarbonyl)-3-methoxycarbonyl-5-[N-(1-(4-cyanobenzyl)-1H-imidazol-5-yl)acetylamino]piperidine | 0.093 mmol, 44.6 mg | C(C)(C)(C)OC(=O)N1CC(CC(C1)NC(CC1=CN=CN1CC1=CC=C(C=C1)C#N)=O)C(=O)OC | C25H31N5O5
reactant | Trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | cis-3-methoxycarbonyl-5-[N-(1-(4-cyanobenzyl)-1H-imidazol-5-yl)acetylamino]piperidine | COC(=O)[C@@H]1CNC[C@@H](C1)NC(CC1=CN=CN1CC1=CC=C(C=C1)C#N)=O | C20H23N5O3
